US07465731B2
To a solution of tert-butyl (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate (830 mg) in dioxane (8.3 mL) was added 4N HCl/dioxane (6.0 mL), which was stirred at room temperature for 1 hour. To the reaction mixture was added diisopropylether, and the precipitate was filtered to give methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl}acrylate dihydrochloride (742 mg) as a yellow powder.

reactant | tert-butyl (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate | 830 mg | COC(/C=C/C=1N=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C17H24N4O4
reactant | HCl dioxane | 4N, 6.0 mL | Cl.O1CCOCC1
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | dioxane | 8.3 mL | O1CCOCC1 | C4H8O2
product | methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl}acrylate dihydrochloride | 742 mg | Cl.Cl.N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)OC | InChI=1S/C12H16N4O2.2ClH/c1-18-12(17)3-2-9-7-15-11(8-14-9)16-10-4-5-13-6-10;;/h2-3,7-8,10,13H,4-6H2,1H3,(H,15,16);2*1H/b3-2+;;/t10-;;/m1../s1
